Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Shellfish Derived / Hayfever / naproxen / 
ibuprofen / red dye / tramadol / iodine / peanut / tree nut / 
legumes / Penicillins / Miralax / apple / prunes
 
Attending: ___.
 
Chief Complaint:
Vomiting, Headache, Constipation
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with history of congenital hydrocephalus followed by Dr. 
___, constipation and H pylori followed by Dr. ___ 
presenting with progressively worsening abdominal ___ over the 
past month and now headache. The ___ is located over her 
epigastric area which sometimes radiates to her back and is deep 
and spasmy. Not worsened by food or relieved with bowel 
movements. She also has nausea and vomited bilious material 2 
nights ago without blood. She is also chronically constipated 
and last BM was 304 days ago. She was diagnosed with H.pylori 
late ___, started on clarithromycin and flagyl but had to 
stop flagyl due to allergic reaction. Had called GI on call 
person night before, so saw her GI doctor, ___. 
She described severe headaches so referred to ED for eval given 
history of hydrocephalus. Has not been able to eat or drink much 
recently. Allergic to NSAIDs.  
Regarding her headache, she has history of migraines for which 
she takes tylenol. Today she had ___ which started in her neck 
and radiated upwards. Currently she has ___ in her temples and 
some photophobia but no nausea. Endorses blurry vision earlier 
this morning.  
Neuro evaluated patient in ED and found exam to be unremarkable. 
Felt headache consistent with migraine likely triggered by 
abdominal ___. Recommend eval for source of abdominal ___ and 
emesis. Advised for ___ control can use combo of compazine, 
benadryl, and morphine if needed.  
Vitals in the ED: 98.5 85 116/64 16 98% ra  
Labs WNL including LFTs, lipase  
Patient given: 3L IVF, morphine, zofran  
Vitals prior to transfer: 98.0 84 102/51 16 96% RA  
 
Past Medical History:
- congenital hydrocephalus dx at ___  
- migraines and cervicogenic tension headaches  
- h pylori  
- Constipation
 
Social History:
___
Family History:
Mother and father healthy. Heart disease in maternal and 
paternal grandparents.  
 
Physical Exam:
ADMISSION:

Vitals - T:99.2 BP:100/55 HR:84 RR:18 02 sat:99% RA  
GENERAL: NAD  
HEENT: EOMI, PERRL, MMM  
NECK: nontender supple neck, some ___ to palpation of 
paracervical muscles  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: soft, nondistended, +BS, tenderness over epigastric 
area, no rebound/guarding, negative Murphys  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: CN II-XII intact  

DISCHARGE:

Vitals - 97.4 96/51 60 16 98% RA 
GENERAL: NAD  
HEENT: EOMI, MMM  
NECK: nontender supple neck, no ___ to palpation of 
paracervical muscles  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: soft, nondistended, +BS, nontender  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
NEURO: CN II-XII intact, sensiromotor function grossly intact
 
Pertinent Results:
LABS:

___ 08:30PM   PLT COUNT-216
___ 08:30PM   NEUTS-71.8* ___ MONOS-4.6 EOS-2.4 
BASOS-0.1
___ 08:30PM   WBC-7.5 RBC-4.55 HGB-13.5 HCT-39.8 MCV-88 
MCH-29.7 MCHC-34.0 RDW-13.3
___ 08:30PM   ALBUMIN-3.8 CALCIUM-8.8 PHOSPHATE-3.2 
MAGNESIUM-2.3
___ 08:30PM   LIPASE-17
___ 08:30PM   ALT(SGPT)-15 AST(SGOT)-27 ALK PHOS-55 TOT 
BILI-0.3
___ 08:30PM   estGFR-Using this
___ 08:30PM   GLUCOSE-84 UREA N-12 CREAT-0.8 SODIUM-139 
POTASSIUM-3.7 CHLORIDE-105 TOTAL CO2-23 ANION GAP-15
___ 08:35PM   LACTATE-0.8
___ 12:30AM URINE  MUCOUS-MOD
___ 12:30AM URINE  RBC-2 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-4
___ 12:30AM URINE  BLOOD-MOD NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:30AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:30AM URINE  GR HOLD-HOLD
___ 12:30AM URINE  UCG-NEGATIVE
___ 12:30AM URINE  HOURS-RANDOM
___ 12:30AM URINE  HOURS-RANDOM
___ 07:23AM   PLT COUNT-202
___ 07:23AM   WBC-5.8 RBC-3.92* HGB-11.5* HCT-34.2* MCV-87 
MCH-29.4 MCHC-33.7 RDW-13.4
___ 07:23AM   CRP-35.9*
___ 07:23AM   CALCIUM-7.9* PHOSPHATE-2.9 MAGNESIUM-2.1
___ 07:23AM   GLUCOSE-94 UREA N-9 CREAT-0.6 SODIUM-137 
POTASSIUM-3.5 CHLORIDE-105 TOTAL CO2-24 ANION GAP-12

IMAGING:

RUQ US (prelim):  
Mild hepatic steatosis. No gallstones or cholecystitis.  

CT Abd/Pelvis:  
1. No evidence of bowel obstruction.  
2. "Misty mesentery" with mild fat stranding and borderline 
mesenteric and retroperitoneal lymph nodes is very nonspecific, 
possibly due to underlying inflammatory process.  

CT Head (prelim):  
Stable dysmorphic ventriculomegaly compared to the prior MRI 
from ___. No acute process.  

 
Brief Hospital Course:
___ with history of congenital hydrocephalus, GERD, constipation 
and H pylori followed by Dr. ___ presenting with 
progressively worsening abdominal ___ over the past month and 
now headache.  

# Abdominal ___: Likely that constipation is strong 
contributor. Epigastric ___ possibly related to gastritis or 
PUD in setting of known H. pylori and patient has not been 
completely adherent with 2 drug regimen. CT with misty 
mesentery, could be seen with IBD and CRP elevated but 
presentation less c/w this. Treated constipation aggressively 
with oral and PR bowel regimen consisting of senna/colace, 
lactulose, bisacodyl suppositories, and a Fleet enema and ___ 
improved after BM. In consultation with outpatient GI, patient 
was started on 2 week H. pylori regimen with a 3 drug regimen 
consisting of omeprazole, clarithromycin, and doxycycline, day ___ 
= ___. 

# Headache: Most c/w known cervicogenic headache in the setting 
of abd ___, though initially there was concern for migraine. CT 
head reassuring. Improved with flexeril. Referred to ___ 
___ ongoing headache management per neurology's 
recommendations.    

# Spotting: On the day of discharge the pt noted spotting after 
completing her period. 

Transitional issues:
- Repeat CRP at GI followup, monitor for signs of IBD
- Consider Linzess if constipation persists/worsens
- Restarted H. pylori regimen with doxy, PPI, clarithromycin, 
day 1 = ___
- Referred to ___ headache management 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Polyethylene Glycol 17 g PO DAILY 
2. Omeprazole 20 mg PO BID 
3. Clarithromycin 500 mg PO Q12H 

 
Discharge Medications:
1. Clarithromycin 500 mg PO Q12H Duration: 13 Days 
RX *clarithromycin 500 mg 1 tablet(s) by mouth q12 hr Disp #*26 
Tablet Refills:*0
2. Omeprazole 40 mg PO BID Duration: 13 Days 
RX *omeprazole 40 mg 1 capsule(s) by mouth q 12 hr Disp #*26 
Capsule Refills:*0
3. Acetaminophen 650 mg PO Q6H:PRN ___ 
RX *acetaminophen 650 mg 1 tablet(s) by mouth q6 hr Disp #*30 
Tablet Refills:*0
4. Cyclobenzaprine 5 mg PO TID:PRN neck ___, headache 
Causes sedation, do not mix with alcohol or other sedating meds, 
do not drive when taking 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth q8 hrs Disp #*15 
Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID 
Do not take if stools are loose 
RX *docusate sodium 100 mg 100 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
6. Doxycycline Hyclate 100 mg PO Q12H Duration: 13 Days 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth q12 hr Disp 
#*26 Capsule Refills:*0
7. Lactulose 15 mL PO DAILY:PRN constipation 
RX *lactulose 10 gram/15 mL 15 ml by mouth Daily Refills:*0
8. Senna 8.6 mg PO BID 
Do not take if stools are loose 
RX *sennosides [senna] 8.6 mg 1 Capsule by mouth q12 hours Disp 
#*60 Capsule Refills:*0
9. Bisacodyl 10 mg PR QHS:PRN constipation 
RX *bisacodyl 10 mg 1 suppository(s) rectally at bedtime Disp 
#*8 Suppository Refills:*0
10. Fleet Enema ___X/WEEK (WE) 
Use if no bowel movement for more than 4 days and bisacodyl 
suppository ineffective. 
RX *sodium phosphates [Enema] 19 gram-7 gram/118 mL 1 enema(s) 
rectally Weekly Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Abdominal ___
Constipation
Tension headache
Migraines

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You were admitted 
with abdominal ___ and headaches. We feel that your abdominal 
___ is related to constipation and H. pylori. Your headaches 
were most likely related to stress and strain from the abdominal 
___. Both are now improved. We have started you on several 
medications to help with constipation and headache, and have 
started the H. pylori treatment course from the beginning. This 
will require an additional 2 weeks of antibiotics.

It is important to stay well-hydrated to prevent worsening 
constipation.

Please followup with gastroenterology and your primary care 
doctor as an outpatient.

Best wishes,

Your ___ Team
 
Followup Instructions:
___